US06525042B1
1-[(6-Chloronaphthalen-2-yl)sulfonyl]-4-[4-(pyridin-3-yl)benzoyl]piperazine hydrochloride
In a similar manner to Example 4 except for the use of 4-(3-pyridyl)benzoic acid hydrochloride and 1-[(6-chloronaphthalen-2-yl)sulfonyl]piperazine trifluoroacetate as the raw materials, the reaction was conducted, whereby the title compound was obtained as a colorless solid.

reactant | 4-(3-pyridyl)benzoic acid hydrochloride | Cl.N1=CC(=CC=C1)C1=CC=C(C(=O)O)C=C1
reactant | 1-[(6-chloronaphthalen-2-yl)sulfonyl]piperazine trifluoroacetate | FC(C(=O)O)(F)F.ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CCNCC1
product | 1-[(6-Chloronaphthalen-2-yl)sulfonyl]-4-[4-(pyridin-3-yl)benzoyl]piperazine hydrochloride | Cl.ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CCN(CC1)C(C1=CC=C(C=C1)C=1C=NC=CC1)=O | InChI=1S/C26H22ClN3O3S.ClH/c27-24-9-7-22-17-25(10-8-21(22)16-24)34(32,33)30-14-12-29(13-15-30)26(31)20-5-3-19(4-6-20)23-2-1-11-28-18-23;/h1-11,16-18H,12-15H2;1H
